*COPYRIGHT OF BURR-BROWN
*
OPA622X1 - WIDE-BANDWIDTH OPERATIONAL AMPLIFIER MACROMODEL SIMPLIFIED VERSION
*
* CREATED 8/92 KL
* EDITTED 7/9/93 BCB : CLARIFICATION OF NODE SET INSTRUCTIONS
*
*  ------------------------------------------------------------------------ 
* |  NOTICE: THE INFORMATION PROVIDED HEREIN IS BELIEVED TO BE RELIABLE;   |
* |  HOWEVER; BURR-BROWN ASSUMES NO RESPONSIBILITY FOR INACCURACIES OR     |
* |  OMISSIONS.  BURR-BROWN ASSUMES NO RESPONSIBILITY FOR THE USE OF THIS  |
* |  INFORMATION, AND ALL USE OF SUCH INFORMATION SHALL BE ENTIRELY AT     |
* |  THE USER'S OWN RISK.  NO PATENT RIGHTS OR LICENSES TO ANY OF THE      |
* |  CIRCUITS DESCRIBED HEREIN ARE IMPLIED OR GRANTED TO ANY THIRD PARTY.  |
* |  BURR-BROWN DOES NOT AUTHORIZE OR WARRANT ANY BURR-BROWN PRODUCT FOR   |
* |  USE IN LIFE-SUPPORT DEVICES AND/OR SYSTEMS.                           |
*  ------------------------------------------------------------------------ 
* |-------------------------------------------------------------|
* |  This macro model is being supplied as an aid to            |
* |  circuit designs.  While it reflects reasonably close       |
* |  similarity to the actual device in terms of performance,   |
* |  it is not suggested as a replacement for breadboarding.    |
* |  Simulation should be used as a forerunner or a supplement  |
* |  to traditional lab testing.                                |
* |-------------------------------------------------------------|
*
* NOTE : FOR QUICKER CONVERSION PLACE THE NODESET 
*        V(Xyour.X1.131)=+4.2798 AND
*        V(Xyour.X1.141)=-4.2808 IN THE ROOT SIMULATION FILE.
*        ("Xyour" IS DEVICE NAME CALLED OUT IN THE ROOT FILE.)
*
*
* CONNECTIONS:    Iq ADJUST
*                 | INVERTING INPUT
*                 | | NON-INVERTING INPUT
*                 | | | NEGATIVE POWER SUPPLY
*                 | | | | NEGATIVE OUTPUT POWER SUPPLY
*                 | | | | | BUFFER -
*                 | | | | | | VOLTAGE OUT
*                 | | | | | | | OTA
*                 | | | | | | | |  POSITIVE OUTPUT POWER SUPPLY
*                 | | | | | | | |  |  POSITIVE POWER SUPPLY
*                 | | | | | | | |  |  |  BUFFER +
*                 | | | | | | | |  |  |  |
.SUBCKT OPA622X1  2 3 4 5 6 8 9 10 11 12 13
** 
X1  2 5 12 131 141                BC ; Biasing Circuit BC
X2  4 5 10 12 13 111 121 131 141  DT ; Diamond Transistor DT
X3  6 9 11 111 121                CB ; Current-Buffer CB
X4  3 5 8 12 131 141              DB ; Diamond-Buffer DB
**
C202    2  0   2E-12
C208    8  0   2E-12
C209    9  0   2E-12
C210   10  0   2E-12
C213   13  0   2E-12
**
.ENDS OPA622X1

**Diamond Buffer DB
**
.SUBCKT DB 3 5 8 12 131 141
**
R63  63 3  40
**
C61  61 0  0.02E-12
C62  62 0  0.02E-12
C63  63 0  2E-12
**
Q61  61 131 12 12  PI
Q62  62 141  5  5  NI
Q63   5 63  61 12  PI
Q64  12 63  62  5  NI
Q65  12 61   8  5  NI 6
Q66   5 62   8 12  PI 6
**
.ENDS DB

**Diamond Transistor DT
**
.SUBCKT DT 4 5 10 12 13 111 121 131 141
**
R23  23 4  40
**
C10  10 0  2.0E-12
C21  21 0  0.02E-12
C22  22 0  0.02E-12
C23  23 0  2E-12
C27  27 0  14E-12
C28  28 0  14E-12
**
Q21  21  131 12 12  PI
Q22  22  141  5  5  NI
Q23   5  23  21 12  PI
Q24  12  23  22  5  NI
Q25  27  21  13  5  NI 6
Q26  28  22  13 12  PI 6
Q27  27  27  12 12  PIM
Q28  28  28   5  5  NIM
Q29  111 27  12 12  PIM
Q30  121 28   5  5  NIM
Q31  111 111 33  5  NI
Q32  121 121 34 12  PI
Q33  33  33  10  5  NI
Q34  34  34  10 12  PI
**
.ENDS DT

**Current Buffer CB
**
.SUBCKT CB 6 9 11 111 121
**
Q35  11 111 37  6  NI
Q36   6 121 38 11  PI
Q37  37 37  39  6  NI
Q38  38 38  39 11  PI
Q39  11 37   9  6  NI 2.2
Q40   6 38   9 11  PI 2.2
**
.ENDS CB

**Biasing Circuit BC
**
.SUBCKT BC 2 5 12 131 141
**
R122  122  5  100k
R123  122  2  200
**
Q121  131 131  12 12  PI
Q122  131 141 122  5  NI 10
Q123  141 131  12 12  PI
Q124  141 141   5  5  NI
**
.ENDS BC

.MODEL NI NPN
.MODEL PI PNP
.MODEL NIM NPN (VAF=18)
.MODEL PIM PNP (VAF=18)OPA622X2 WIDE-BANDWIDTH OPERATIONAL AMPLIFIER MACROMODEL COMPLEX VERSION
*
* CREATED 8/92 BY KL
* EDITTED 7/9/93 BCB : CLARIFICATION OF NODE SET INSTRUCTIONS
*
*  ------------------------------------------------------------------------ 
* |  NOTICE: THE INFORMATION PROVIDED HEREIN IS BELIEVED TO BE RELIABLE;   |
* |  HOWEVER; BURR-BROWN ASSUMES NO RESPONSIBILITY FOR INACCURACIES OR     |
* |  OMISSIONS.  BURR-BROWN ASSUMES NO RESPONSIBILITY FOR THE USE OF THIS  |
* |  INFORMATION, AND ALL USE OF SUCH INFORMATION SHALL BE ENTIRELY AT     |
* |  THE USER'S OWN RISK.  NO PATENT RIGHTS OR LICENSES TO ANY OF THE      |
* |  CIRCUITS DESCRIBED HEREIN ARE IMPLIED OR GRANTED TO ANY THIRD PARTY.  |
* |  BURR-BROWN DOES NOT AUTHORIZE OR WARRANT ANY BURR-BROWN PRODUCT FOR   |
* |  USE IN LIFE-SUPPORT DEVICES AND/OR SYSTEMS.                           |
*  ------------------------------------------------------------------------ 
* |-------------------------------------------------------------|
* |  This macro model is being supplied as an aid to            |
* |  circuit designs.  While it reflects reasonably close       |
* |  similarity to the actual device in terms of performance,   |
* |  it is not suggested as a replacement for breadboarding.    |
* |  Simulation should be used as a forerunner or a supplement  |
* |  to traditional lab testing.                                |
* |-------------------------------------------------------------|
*
*  NOTE : FOR QUICKER CONVERSIONS PLACE THE NODESET 
*         V(Xyour.X1.121)=+4.2833 AND
*         V(Xyour.X1.124)=-4.2838 INTO THE ROOT SIMULATION FILE.
*         ("Xyour" IS THE DEVICE NAME CALLED OUT IN THE ROOT FILE.)
*
*
* CONNECTIONS :   Iq ADJUST
*                 | INVERTING INPUT
*                 | | NON-INVERTING INPUT
*                 | | | NEGATIVE POWER SUPPLY
*                 | | | | NEGATIVE OUTPUT POWER SUPPLY
*                 | | | | | BUFFER -
*                 | | | | | | VOLTAGE OUT
*                 | | | | | | |  OTA
*                 | | | | | | |  |  POSITIVE OUTPUT POWER SUPPLY
*                 | | | | | | |  |  |  POSITIVE POWER SUPPLY
*                 | | | | | | |  |  |  |  BUFFER +
*                 | | | | | | |  |  |  |  |
.SUBCKT OPA622X2  2 3 4 5 6 8 9 10 11 12 13
** 
X1  2 5 12 131 141                BC ; Biasing Circuit BC
X2  4 5 10 12 13 111 125 131 141  DT ; Diamond Transistor DT
X3  6 9 11 111 125                CB ; Current-Buffer CB
X4  3 5 8 12 131 141              DB ; Diamond-Buffer DB
**
C202    2  0   2E-12
C203    3  0   2E-12
C204    4  0   2E-12
C208    8  0   2E-12
C209    9  0   2E-12
C210   10  0   2E-12
C213   13  0   2E-12
**
.ENDS OPA622X2

**Diamond Buffer DB
**
.SUBCKT DB 3 5 8 12 131 141
**
Q61  64 131 12 12  PI
Q62  63 141  5  5  NI
Q63  63 63  12 12  PIJ 10
Q64  64 64   5  5  NIJ 10
Q65  69 63  12 12  PIJ 10
Q66  70 64   5  5  NIJ 10
Q67  64  3  69 12  PIJ
Q68  63  3  70  5  NIJ
Q69  69 69  68  5  NIJ
Q70  70 70  68 12  PIJ
Q71  73 69   8  5  NIJ 6
Q72  74 70   8 12  PIJ 6
Q73  73 73  12 12  PIJ 4
Q74  74 74   5  5  NIJ 4
**
.ENDS DB

**Diamond Transistor DT
**
.SUBCKT DT 4 5 10 12 13 111 125 131 141
**
Q21  24 131 12 12  PI
Q22  23 141  5  5  NI
Q23  23 23  12 12  PIJ 10
Q24  24 24   5  5  NIJ 10
Q25  29 23  12 12  PIJ 10
Q26  30 24   5  5  NIJ 10
Q27  24  4  29 12  PIJ
Q28  23  4  30  5  NIJ
Q29  29 29  28  5  NIJ
Q30  30 30  28 12  PIJ
Q31  33 29  13  5  NIJ 6
Q32  34 30  13 12  PIJ 6
Q33  33 33  12 12  PIJ 8
Q34  34 34   5  5  NIJ 8
Q35  111 33 12 12  PIJ 8
Q36  125 34  5  5  NIJ 8
Q37  111 37 10  5  NIJ 5
Q38  10 38 125  5  NIJ 5
Q39  10 37 111 12  PIJ 5
Q40  125 38 10 12  PIJ 5
**
.ENDS DT

**Current Buffer CB
**
.SUBCKT CB 6 9 11 111 125
**
Q43  11 111 45  6  NIJ 4
Q44   6 125 46 11  PIJ 4
Q45  45 45  47  6  NIJ 12
Q46  46 46  47 11  PIJ 12
Q47  11 45   9  6  NIJ 48
Q48   6 46   9 11  PIJ 48
**
.ENDS CB

**Biasing Circuit BC
**
.SUBCKT BC 2 5 12 131 141
**
E13  131 0  121 0  1
E14  141 0  124 0  1
**
I121  121 124  0.1E-6
**
R122  122  5  100E3
R123  122  2  200
**
C121  121  12 10E-12
C124  124   5 10E-12
**
Q121  121 121  12 12  PI
Q122  121 124 122  5  NI 6
Q123  124 121  12 12  PI
Q124  124 124   5  5  NI
Q125   5  131  12 12  PI 11
**
.ENDS BC

.MODEL NIJ NPN (BF  = 110 IS  = 0.1567E-16
+CJC = 0.029E-12 AF  = 1.000    NE  = 1.366    XTB = 2.452    BR  = 12.89
+CJE = 0.017E-12 EG  = 1.183    NF  = 1.000    XTF = 9.000    IKF = 2.272E-3
+CJS = 0.050E-12 FC  = 0.900    NR  = 1.000    XTI = 2.000    IKR = 16.67E-3
+RB  = 228.0     IRB = 0.000    PTF = 0.000                   ISC = 5.248E-20
+RC  = 48.83     KF  = 0.000    VAR = 1.771                   ISE = 8.040E-18
+RE  = 5.065     MJC = 0.190    VJC = 0.526                   ITF = 6.683E-3
+TF  = 29.80E-12 MJE = 0.493    VJE = 0.816                   RBM = 60.00
+TR  = 65.00E-12 MJS = 0.348    VJS = 0.596                   XCJC= 0.0732
+VAF = 39.00     NC  = 1.634    VTF = 2.680)

.MODEL PIJ PNP (BF  = 110 IS  = 0.1567E-16
+CJC = 0.029E-12 AF  = 1.000    NE  = 1.366    XTB = 2.452    BR  = 12.89
+CJE = 0.017E-12 EG  = 1.183    NF  = 1.000    XTF = 9.000    IKF = 2.272E-3
+CJS = 0.050E-12 FC  = 0.900    NR  = 1.000    XTI = 2.000    IKR = 16.67E-3
+RB  = 228.0     IRB = 0.000    PTF = 0.000                   ISC = 5.248E-20
+RC  = 48.83     KF  = 0.000    VAR = 1.771                   ISE = 8.040E-18
+RE  = 5.065     MJC = 0.190    VJC = 0.526                   ITF = 6.683E-3
+TF  = 29.80E-12 MJE = 0.493    VJE = 0.816                   RBM = 60.00
+TR  = 65.00E-12 MJS = 0.348    VJS = 0.596                   XCJC= 0.0732
+VAF = 39.00     NC  = 1.634    VTF = 2.680)

.MODEL NI NPN
.MODEL PI PNPOPA623X1 WIDE BANDWIDTH, CURRENT FEEDBACK, SIMPLIFIED VERSION MACROMODEL
